US05977125
Preparation of 5,6,7,8-tetrahydro-2,3-diisopropyl-8-quinoxalinone
1.5 g of 5,6,7,8-tetrahydro-2,3-diisopropylquinoxaline was dissolved in 10 ml of acetic acid, followed by the dropwise addition of a solution of 1.0 g of chromic acid anhydride in acetic acid (6 ml)/water (1 ml). The obtained mixture was stirred at 80° C. for 2 hours, cooled by allowing to stand, and poured into water, followed by the extraction with ethyl acetate. The organic phase was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate, and concentrated in a vacuum. The obtained residue was purified by silica gel chromatography (developer: 10% ethyl acetate/hexane) to give 0.6 g of the title compound as a brown solid.

reactant | 5,6,7,8-tetrahydro-2,3-diisopropylquinoxaline | 1.5 g | C(C)(C)C1=NC=2CCCCC2N=C1C(C)C | C14H22N2
reactant | water | 1 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 5,6,7,8-tetrahydro-2,3-diisopropyl-8-quinoxalinone | 0.6 g | C(C)(C)C1=NC=2C(CCCC2N=C1C(C)C)=O | C14H20N2O
